US06562972B1
Synthesis of 6-chloromethyl-quinoxaline
In a 500 ml flask, 6-methyl-quinoxaline (10 g, 69.4 mmol) was dissolved together with N-chlorosuccinimide (14 g, 105.3 mmol) and benzoyl peroxide (BP, 0.4 g, 1.65 mmol) in 240 g of acetonitrile. The flask was connected to a reflux-condenser and the solution was refluxed for 6 hours followed by another addition of 0.1 g of benzoyl peroxide. Reflux was then continued for another 6 hours.

reactant | 6-methyl-quinoxaline | 69.4 mmol, 10 g | CC=1C=C2N=CC=NC2=CC1 | C9H8N2
reactant | N-chlorosuccinimide | 105.3 mmol, 14 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzoyl peroxide | 1.65 mmol, 0.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | benzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | acetonitrile | 240 g | C(C)#N | C2H3N
product | 6-chloromethyl-quinoxaline | ClCC=1C=C2N=CC=NC2=CC1 | C9H7ClN2
